Name:  ___.                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
leukemia
 
Major Surgical or Invasive Procedure:
R temporary tunneled triple lumen catheter placed ___

 
History of Present Illness:
This is a ___ yo male admitted for allogeneic stem cell
transplant with reduced intensity conditioning. He was diagnosed
with intermediate risk AML in ___ (normal
cytogenetics,  FLT-3 negative, NPM1 negative). He enrolled in 
___: Phase III Randomized Trial of Clofarabine as Induction
and Post-Remission Therapy vs. Standard Daunorubicin & 
Cytarabine
Induction and Intermediate Dose Cytarabine Post-Remission
Therapy, Followed by Decitabine Maintenance vs. Observation in
Newly-Diagnosed Acute Myeloid Leukemia in Older Adults (Age ___
Years). He randomized to arm A, (standard 7+3). He had ___ on 
f/u
marrow, and received consolidation with miDAC.  Remaining 
marrows
have been clean.  He was diagnosed with aspergillus pneumonia in
___, and has been treated with voriconazole.  He is
followed by ID, and followup CT scans were improved.

 
Past Medical History:
AML, intermediate risk (normal cytogenetics, FLT3/NPM1 neg) dx 
___. Enrolled in ECOG 2906, received indection with 7+3 with 
___, consolidation with midAC x1.
MRD allo sct with reduced intensity flu/bu on ECOG 2906, d0 
___. received 4.62 x 10^6 CD34+/kg cells.
aspergillosis, dx ___
Prostatitis in ___ 
Seizure vs. Syncope - ___, holter, MRI/MRA, EEG all negative
Lyme Disease in ___
 
Social History:
___
Family History:
Brother Alive ___ 
Father ___ at ___ Cancer; Diabetes - Unknown Type 
Mother ___ at ___
 
Physical Exam:
admit:
ECOG: 0    KPS: 100
Physical Exam:
Gen: WDWN NAD A&Ox4
HEENT: oropharynx moist no lesions
neck: supple no LAD
CV: RRR no m/r/g
LS: CTA no adventitious sounds
Abd: soft NT -HSM +BS
Extr: no edema
Skin: no rash
neuro: nonfocal
Access: none. line to be placed today.

discharge: 
PHYSICAL EXAM:
KPS: 80
GEN:  WDWN NAD A&Ox4
HEENT: oropharynx moist, no lesions, ulcers, or erythema
CV:  RRR no m/r/g
PULM: CTA 
ABD:  soft NT -HSM
EXTR: R wrist no erythema or warmth over radial surface. no 
edema
SKIN:  no rash
ACCESS: R CVC clean, dry, no erythema. Venotomy suture removed 
today, covered with tegaderm/gauze

 
Pertinent Results:
___ 12:25AM BLOOD WBC-5.6# RBC-3.02* Hgb-9.7* Hct-29.2* 
MCV-97 MCH-32.0 MCHC-33.1 RDW-19.3* Plt ___
___ 12:25AM BLOOD Neuts-46* Bands-4 Lymphs-15* Monos-11 
Eos-1 Baso-0 Atyps-6* Metas-5* Myelos-11* Promyel-1*
___ 12:25AM BLOOD Glucose-109* UreaN-10 Creat-1.1 Na-142 
K-4.0 Cl-105 HCO3-28 AnGap-13
___ 12:25AM BLOOD ALT-19 AST-20 LD(LDH)-230 AlkPhos-138* 
TotBili-0.4
___ 12:25AM BLOOD Calcium-9.4 Phos-3.3 Mg-1.6
___ 08:56AM BLOOD tacroFK-8.___ctive issues
# heme: ___ s/p matched related donor allogeneic stem cell
transplant with reduced intensity conditioning for leukemia. 
Completed fludarabine 30mg/m2 daily on d-7 thru d-3, and 
busulfan 0.8mg/kg d-4 q6h on d-4 and d-3 for a
total of 8 doses (no levels). Cell dose 4.62 x 10^6 CD34+/kg, 2
bags on ___.  Tolerated stem cell infusion well with no 
acute issues. 

# panyctopenia ___ chemotherapy: Started gcsf d12 per ECOG 2906,
received 1 doses.  ANC nadir was 950. Plt and hgb self 
sustaining. He did not require plt or pRBC product.

#Diarrhea. Resolved. Have asked him to monitor for any changes 
at home. He knows to report any new watery stools.

# gvhd: no ATG as patient is MRD. Methotrexate on D+1 +3 +6 +11.
FK has been stable, remains on 0.5mg BID. Will need monitoring 
as an outpatient.
Current stage 0/grade 0.

# HTN: Improved with amlodopine, no acute issue.

# nausea: resolved. Have asked him to notify us of new 
nausea/anorexia.

#VOD prophylaxis: ursodiol. 

# pulmonary aspergillosis: on treatment dose voriconazole.
Recheck level ___ WNL @ 1.4. Dr. ___ will adjust 
outpatient
if needed.

# superficial clot R cephalic near wrist: no treatment indicated 
at this point. Symptomatic relief with moist heat and avoiding 
BP this side. Recheck U/S next week to make sure no extention.

# ID: Acyclovir, cipro prophy. Treatment dose vori for
aspergillosis. QTc monitored and appropriate. Last performed
___ with QTc of 436. EBV and CMV repeat ___ PND. CMV status 
recip pos/ donor pos, EBV status recip pos.

# F/E/N:   Maintaining fluid intake, oral intake. repleation of 
electrolytes prn. Hypomagnesemia expected ___ FK, replacement 
today for Mg 1.6. F/u in clinic for determination of replacement 
strategy.

# Access: R CVC: skin is sensitive to tape.  He will need skin
prep prior to all dressings to the area to avoid skin breakdown.
___ evaluated absorbable suture at venotomy site, it 
was removed today. Keep covered until healed over.

Inactive issues:
# dry skin: topical emollients

# code status: Full
# dispo: home today. F/u in clinic tomorrow. Discharge plan 
reviewed with patient and wife.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q8H 
2. Lorazepam 0.5-1 mg PO Q4H:PRN Anxiety, Insomnia, Nausea 
3. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
4. Voriconazole 350 mg PO Q12H 

 
Discharge Medications:
1. Acyclovir 400 mg PO Q8H 
RX *acyclovir 400 mg 1 tablet(s) by mouth three times a day Disp 
#*90 Capsule Refills:*3
2. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
3. Voriconazole 350 mg PO Q12H 
RX *voriconazole 200 mg 1 tablet(s) by mouth every 12 hours Disp 
#*60 Tablet Refills:*3
RX *voriconazole 50 mg 3 tablet(s) by mouth every 12 hours Disp 
#*180 Tablet Refills:*3
4. Amlodipine 2.5 mg PO DAILY 
RX *amlodipine 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3
5. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*6
6. Multivitamins 1 CAP PO DAILY 
RX *multivitamin   1 tablet(s) by mouth daily Disp #*30 Capsule 
Refills:*6
7. Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim [Bactrim] 400 mg-80 mg 1 
tablet(s) by mouth daily Disp #*30 Tablet Refills:*4
8. Tacrolimus 0.5 mg PO Q12H 
RX *tacrolimus 0.5 mg 1 capsule(s) by mouth twice a day Disp 
#*60 Capsule Refills:*2
9. Ursodiol 300 mg PO BID 
RX *ursodiol 300 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*2
10. Lorazepam 0.5-1 mg PO Q4H:PRN Anxiety, Insomnia, Nausea 
11. Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron HCl 4 mg 1 tablet(s) by mouth every 8 hours as 
needed Disp #*90 Tablet Refills:*3

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
primary:
leukemia
aspergillosis
pancytopenia
hypokalemia
hypomagnesemia
diarrhea
hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

You were admitted to receive your matched related donor reduced 
intensity allogeneic stem cell tranplant for leukemia. You 
tolerated this very well with minor complaints of nausea, 
diarrhea, and loss of appetite. Your symptoms are improving and 
you are okay to be discharged home. 

If you develop a new rash or redness of the skin, please call. 
If you develop watery diarrhea, please call. If you have new 
nausea or difficulty eating, please call.  If you develop a 
temperature of 100.4 or greater, please call.  Please check your 
temperature twice a day.

You will be seen in clinic tomorrow.  Write down your questions 
so you don't forget them!

The ___ will see you on ___ to look at your line and 
discuss line care with you.

Please do not hesitate to call with any questions or concerns.
 
Followup Instructions:
___